US06908999B2
A further possibility is that—after the hydrolysis and adjustment of the pH value to 3.8-4.0—the solution of cetirizine base in dichloromethane is extracted with preferably 5-30% hydrochloric acid, the aqueous solution is concentrated under reduced pressure to reduce the water content to 20-25% by mass and then the procedure described above is followed to obtain cetirizine dihydrochloride.

reactant | cetirizine | C=1C=CC(=CC1)C(C=2C=CC(=CC2)Cl)N3CCN(CC3)CCOCC(=O)O | C21H25ClN2O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | cetirizine dihydrochloride | C=1C=CC(=CC1)C(C=2C=CC(=CC2)Cl)N3CCN(CC3)CCOCC(=O)O.Cl.Cl | InChI=1S/C21H25ClN2O3.2ClH/c22-19-8-6-18(7-9-19)21(17-4-2-1-3-5-17)24-12-10-23(11-13-24)14-15-27-16-20(25)26;;/h1-9,21H,10-16H2,(H,25,26);2*1H
